US07405300B2
1-Phenyl-2-piperazin-1-yl-1H-indole-3-carboxaldehyde is reacted with bromoethanol as described in Example 30 to afford 2-[4-(2-hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde (87% yield) as a yellow solid. TLC (ethyl acetate-10% methanol) Rf 0.13; ESI/MS 350 (M+H); RT 2.67 min; NMR 10.16 (1H, s); 8.13 (1H, d, J=6 Hz); 7.68 (5H, m); 7.20 (2H, m); 6.91 (1H, d, J=6 Hz); 4.39 (1H, t); 3.47 (2H, q); 3.2 (4H, m); 2.34 (6H, m).

reactant | 1-Phenyl-2-piperazin-1-yl-1H-indole-3-carboxaldehyde | C1(=CC=CC=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | C19H19N3O
reactant | bromoethanol | BrC(C)O | C2H5BrO
product | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde | 87% yield | OCCN1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C21H23N3O2
